US05207818
A mixture consisting of 6-amino-4-ethoxy-7-fluoro-1,4-benzoxazin-3(4H)-one (1.06 g), 1,2-cyclohexanedicarboxyaldehyde (0.7 g) and xylene (50 ml) was stirred for 15 minutes under heat-refluxing. After the solvent had been distilled off under reduced pressure, the residue was purified through silica-gel chromatography (eluent: hexane/ethyl acetate=19/1) to obtain the aimed 4-ethoxy-7-fluoro-6-(4,5,6,7-tetrahydroisoindole-2-yl)-1,4-benzoxazin-3(4H)-one (1.37 g). nD20 1.5797

reactant | 6-amino-4-ethoxy-7-fluoro-1,4-benzoxazin-3(4H)-one | 1.06 g | NC=1C(=CC2=C(N(C(CO2)=O)OCC)C1)F | C10H11FN2O3
reactant | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-ethoxy-7-fluoro-6-(4,5,6,7-tetrahydroisoindole-2-yl)-1,4-benzoxazin-3(4H)-one | 1.37 g | C(C)ON1C(COC2=C1C=C(C(=C2)F)N2C=C1CCCCC1=C2)=O | C18H19FN2O3
